US04618714
This crude chloronitrobenzophenone was dissolved in 500 ml of methylene chloride and 250 g (2.5 mol) of concentrated sulfuric acid and 93.5 g (1.1 mol) of sodium nitrate were added thereto. The mixture was reacted at a temperature of 35° to 40° C. for 7 hours. After the completion of the reaction, 500 ml of ice water was carefully added thereto. Methylene chloride was removed by heating. The precipitated light brown particulate material was recovered by filtration, washed with water, and dried to give 293 g (over-all yield 95.5%) of crude chlorodinitrobenzophenone.

reactant | chloronitrobenzophenone | ClC=1C(=C(C(=O)C2=CC=CC=C2)C=CC1)[N+](=O)[O-] | C13H8ClNO3
reactant | sulfuric acid | 2.5 mol, 250 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrate | 1.1 mol, 93.5 g | [N+](=O)([O-])[O-].[Na+]
reactant | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | chlorodinitrobenzophenone | 293 g, yield 95.5% | ClC1=C(C(=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-])[N+](=O)[O-] | C13H7ClN2O5
